US08557839B2
1-Benzyl-3-methyl-piperidin-4-one (15.0 g, 73.89 mmol) was dissolved in toluene (150 mL) and (R)-(+)-α-methylbenzylamine (11.4 mL, 88.67 mmol) was added. The contents were heated to reflux for 20 h (Dean-Stark trap) and then cooled to room temperature. The resultant colorless oil was dissolved in THF and methylvinylketone (7.40 mL, 88.67 mmol) and hydroquinone (150 mg, catalytic) were added and the contents were stirred in the dark. After 2 days 1N HCl (90 mL) was added and the contents stirred at ambient temperature for 30 min, the organics were extracted with diethyl ether (100 mL), washed with water, dried with MgSO4, concentrated and purified by flash chromatography (CH2Cl2 100% to 20% EtOAc in CH2Cl2) to afford 6.51 g of ((R)-1-benzyl-3-methyl-3-(3-oxo-butyl)-piperidin-4-one as a colorless oil. LC-MS (Method A): RT=0.32 min, (M+H)+ 274.

reactant | 1-Benzyl-3-methyl-piperidin-4-one | 73.89 mmol, 15.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | (R)-(+)-α-methylbenzylamine | 88.67 mmol, 11.4 mL | C[C@H](C1=CC=CC=C1)N | C8H11N
reactant | methylvinylketone | 88.67 mmol, 7.40 mL | CC(=O)C=C | C4H6O
reactant | hydroquinone | 150 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | HCl | 1N, 90 mL | Cl | ClH
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
product | (R)-1-benzyl-3-methyl-3-(3-oxo-butyl)-piperidin-4-one | C(C1=CC=CC=C1)N1C[C@](C(CC1)=O)(CCC(C)=O)C | C17H23NO2
